US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoyl]-3,4,5-trimethoxyaniline
3,4,5-Trimethoxyaniline (0.260 g, 1.42 mmol), triethylamine (0.144 g, 1.42 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.240 g, 1.42 mmol) were added to a methylene chloride solution (20 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoic acid (0.200 g, 0.473 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) and then recrystallized from ether to obtain the titled compound (0.050 g, 0.085 mmol, 18%).

reactant | 3,4,5-Trimethoxyaniline | 1.42 mmol, 0.260 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | triethylamine | 1.42 mmol, 0.144 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.42 mmol, 0.240 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoic acid | 0.473 mmol, 0.200 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OCC=1C=NC=CC1)C)=O | C23H21NO7
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoyl]-3,4,5-trimethoxyaniline | 0.085 mmol, 0.050 g, 18% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC(=C(C(=C2)OC)OC)OC)C1)OCC=1C=NC=CC1)C)=O | C32H32N2O9
